US04639264
2-Amino-4-methoxy-6-(4,5-dihydrothiazol-2-yl-thiomethyl)-pyrimidine (compound No. 1.17)
11.9 g of 4,5-dihydro-2-mercapto-thiazole are suspended in 100 ml of methanol, and to the suspension are added 18.0 g of 30% methanolic, sodium methylate solution. To the formed clear solution are subsequently added 17.4 g of 2-amino-4-chloromethyl-6-methoxy-pyrimidine, and refluxing is carried out for 1 hour. After the solution has cooled, it is diluted with about 1 liter of water, and the product which precipitates is separated and dried. The yield is 22.5 g (88% of theory) of 2-amino-4-methoxy-6-(4,5-dihydrothiazol-2-yl-thiomethyl)-pyrimidine, m.p. 122°-124° C.

reactant | 4,5-dihydro-2-mercapto-thiazole | 11.9 g | SC=1SCCN1 | C3H5NS2
reactant | sodium methylate | C[O-].[Na+]
reactant | 2-amino-4-chloromethyl-6-methoxy-pyrimidine | 17.4 g | NC1=NC(=CC(=N1)CCl)OC | C6H8ClN3O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | about 1 liter | O | H2O
product | 2-Amino-4-methoxy-6-(4,5-dihydrothiazol-2-yl-thiomethyl)-pyrimidine | NC1=NC(=CC(=N1)OC)CSC=1SCCN1 | C9H12N4OS2
